US05578190
Aminomethylphosphonic acid (3.12 g, 0.028 mol) was dissolved in 30 ml of stirred 98% formic acid maintained at 80° C. with an oil bath. Glyoxylic acid hydrate (5.60 g, 0.061 mol) was added to the solution in several portions, resulting in vigorous gas evolution. After one hour, the reaction flask was removed from the oil bath and the solvent removed on a rotary evaporator to afford crude N-formyl-N-phosphonomethylglycine as a viscous yellow oil.

reactant | Aminomethylphosphonic acid | 0.028 mol, 3.12 g | NCP(O)(O)=O | CH6NO3P
reactant | Glyoxylic acid hydrate | 0.061 mol, 5.60 g | O.C(C=O)(=O)O
reactant | formic acid | C(=O)O | CH2O2
product | N-formyl-N-phosphonomethylglycine | C(=O)N(CC(=O)O)CP(=O)(O)O | C4H8NO6P
